US07994179B2
Intermediate 13-2: 6-chloropyrazine-2-carboxamide
A solution of 6-chloro-pyrazine carboxylic acid (2.00 g, 12.62 mmol) in DMF (7 mL) was cooled to −40° C. NMP (2.77 mL, 25.23 mmol) and isobutyl chloroformate 3.27 mL, 25.23 mmol) were added. The temperature was allowed to increase to −20° C. during 20 min and then NH4OH was added. A precipitate was rapidly formed and after 15 min it was filtered off and washed with water. Crystallization from EtOH gave the title compound (670 mg, 34%) as light-brown needles.

reactant | 6-chloro-pyrazine carboxylic acid | 12.62 mmol, 2.00 g | ClC1=CN=CC(=N1)C(=O)O | C5H3ClN2O2
reactant | NMP | 25.23 mmol, 2.77 mL | CN1CCCC1=O | C5H9NO
reactant | isobutyl chloroformate | 25.23 mmol, 3.27 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH4OH | [NH4+].[OH-]
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 6-chloropyrazine-2-carboxamide | 670 mg, 34% | ClC1=CN=CC(=N1)C(=O)N | C5H4ClN3O
